US05405851
A solution of methyl 4-(((3-Amino-1,2-dihydro-1-oxobenzo[f]quinazolin-9-yl)amino)sulfonyl)benzoate (0.54 g, 1.2 mmoles) in 0.1N NaOH (30 ml) was stirred at room temperature under a nitrogen atmosphere for 19 hrs. After this time, the solution was acidified (pH 4) with 1N HCl to cause precipitation of the product which was filtered and dried to give 4-(((3-amino-1,2-dihydro-1-oxobenzo[f]quinazolin-9-yl)amino)sulfonyl)benzoic acid as a light brown solid. (0.46 g, 86%) 1HNMR(DMSO-d6, 200 MHz) δ: 7.28(d, J=8.9 Hz, 1H, Ar); 7.30(dd, J=8.3, 2 Hz, 1H, Ar); 7.37(br s, 2H, NH2); 7.82(d, J=8.6 Hz, 1H, Ar); 7.95-8.06(m, 5H, Ar); 9.38(d, J=2 Hz, 1H, Ar); 10.85(s, 1H, NH). Anal. Calculated for C19H14N4O5.4/5 HCl .11 /10H2O: C, 49.68; H, 3.73; N, 12.20. Found: C, 49.61; H, 3.78; N, 12.30.

reactant | methyl 4-(((3-Amino-1,2-dihydro-1-oxobenzo[f]quinazolin-9-yl)amino)sulfonyl)benzoate | 1.2 mmoles, 0.54 g | NC1=NC=2C=CC3=C(C2C(N1)=O)C=C(C=C3)NS(=O)(=O)C3=CC=C(C(=O)OC)C=C3 | C20H16N4O5S
reactant | HCl | 1N | Cl | ClH
solvent | NaOH | 0.1N, 30 ml | [OH-].[Na+]
product | 4-(((3-amino-1,2-dihydro-1-oxobenzo[f]quinazolin-9-yl)amino)sulfonyl)benzoic acid | NC1=NC=2C=CC3=C(C2C(N1)=O)C=C(C=C3)NS(=O)(=O)C3=CC=C(C(=O)O)C=C3 | C19H14N4O5S
